* C:\Users\TCFH2003\Documents\!!PCB_Projects\Proiect1\SPICE_simulations\Proiect1_v5.asc
V1 Vcc 0 25
R5 N010 N011 4k5
C3 0 N006 2n
Rload Vout 0 22k
R8 N001 N002 4k5
R1 Vcc N009 5k
R2 Vcc N003 50k
R3 N003 0 50k
R4 N004 N003 1k
Q1 Vcc N006 Vout 0 BC846B
Q2 N002 P001 P002 0 BC846B
Q3 N001 N001 Vcc 0 BC856B
Q4 N006 N001 Vcc 0 BC856B
Q5 N010 P003 P004 0 BC856B
Q6 N011 N011 0 0 BC846B
Q7 N006 N011 0 0 BC846B
R6 P001 N004 50k
R7 P003 N004 50k
Q8 N005 N005 Vcc 0 BC856B
Q9 N004 N005 Vcc 0 BC856B
Q10 N005 P005 N008 0 BC846B
Q11 N004 P006 N008 0 BC846B
Q12 N008 N009 0 0 BC846B
Q13 N009 N009 0 0 BC846B
R10 N006 P006 100k
D1 P002 0 1N4148
D2 Vcc P004 1N4148
R11 P005 N003 100k
.model D D
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.25m 1u uic
* R_ctrl+ = R_ctrl- = 110k    =>    f = 2.25 kHz
* R_ctrl+ = R_ctrl- = 4k    =>    f = 45.5 kHz
* R9 = 0   =>   A = 11V
* R9 = 90k   =>   A = 2.15V
* .temp 0 25 50 70
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\bc846b.lib"
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\bc856b.lib"
.backanno
.end
